US07220862B2
4,5,6,7-Tetrahydro-1H-pyrazolo[4,3-c]pyridine
1,4,6,7-Tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (0.70 g, 3.1 mmol) was dissolved in trifluoroacetic acid (10 mL) at 0° C., stirred for 1 h, and was concentrated. The residue was dissolved in ethanol and treated with concentrated hydrochloric acid (1 mL). The bis-hydrochloride salt precipitated out as a white solid which was filtered to give 510 mg (83%). The free base was prepared as needed by dissolving the salt in water, loading it onto an SCX column, flushing with methanol, and then eluting with 2 M ammonia in methanol.

reactant | 1,4,6,7-Tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 3.1 mmol, 0.70 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NN=C2 | C11H17N3O2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 4,5,6,7-Tetrahydro-1H-pyrazolo[4,3-c]pyridine | N1N=CC=2CNCCC21 | C6H9N3
